US08648066B2
To a solution of 7-Bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (prepared using the procedure in WO2006038116) (0.150 g, 0.704 mmol), diisopropylethylamine (0.363 g, 2.81 mmol), catalytic DMAP (0.09 g, 0.07 mmol) in anhydrous THF (4 mL) was added acetic anhydride (0.216 g, 2.11 mmol). The reaction mixture was stirred at 50° C. for 22 h under N2 (g). After cooling to room temperature the mixture was concentrated, diluted with ethyl acetate (50 mL), washed with saturated sodium bicarbonate (40 mL), brine (40 mL), and dried over anhydrous sodium sulfate. Filtration and concentration followed by column chromatography of the residue on silica (95:5 dichlormethane/methanol) afforded N-(7-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)acetamide (0.170 g, 95% yield) as a brown oil. MS (EI) for C8H7BrN4O: 256 (MH+).

reactant | 7-Bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | BrC1=CC=2N(C=C1)N=C(N2)N | C6H5BrN4
reactant | diisopropylethylamine | 2.81 mmol, 0.363 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetic anhydride | 2.11 mmol, 0.216 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 0.07 mmol, 0.09 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | N-(7-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)acetamide | 0.170 g, 95% yield | BrC1=CC=2N(C=C1)N=C(N2)NC(C)=O | C8H7BrN4O
